US05151518
6-methyl isatin [Grimshaw, et al., Synthesis, 496 (1974)]was treated with triphenyl bismuth dracetate and copper powder as in example 6 to yield N phenyl-6-methyl isatin.

reactant | 6-methyl isatin | CC1=CC=C2C(C(NC2=C1)=O)=O | C9H7NO2
reactant | triphenyl bismuth | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper | [Cu] | Cu
product | phenyl-6-methyl isatin | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC=C(C=C12)C | C15H11NO2
